US05124478
Methyl 2,4-dimethoxycinnamate
A mixture of 105.6 g of 2,4-dimethoxybenzaldehyde, 93.6 g of methyl potassium malonate, 200 ml of pyridine (dried over KOH), 1.2 ml of piperidine, 36 ml of acetic acid and 48 g of 3A molecular sieves is heated at 150° C. until evolution of CO2 has ceased. The solution is poured onto ice while hot, and the mixture is acidified to pH 1-2 with concentrated hydrochloric acid and then stirred in the ice bath for 20 minutes. The precipitate is filtered off with suction, washed with 1N HCl and water and dried.

reactant | 2,4-dimethoxybenzaldehyde | 105.6 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | methyl potassium malonate | 93.6 g | C(CC(=O)O)(=O)O.C[K]
reactant | piperidine | 1.2 ml | N1CCCCC1 | C5H11N
reactant | CO2 | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2,4-dimethoxycinnamate | COC1=C(C=CC(=O)OC)C=CC(=C1)OC | C12H14O4
